US07622508B2
b. Preparation of 2-{[trans-4-(tert-butyldimethylsilanyloxy)cyclohexylmethyl]-amino}-ethanol
To a solution of toluene-4-sulfonic acid trans-4-(tert-butyldimethylsilanyloxy)-cyclohexylmethyl ester (600 mg, 1.50 mmol) in acetonitrile (15 mL) was added ethanolamine (2.0 mL, 25 eq). The solution was heated to 50° C. overnight. The reaction was diluted with DCM (200 mL), washed with saturated aqueous sodium bicarbonate and brine, and dried over potassium carbonate. Solvent was removed to give crude title intermediate (0.44 g) as a yellow oil. (m/z): [M+H]+ calcd for C15H33NSiO2, 288.3; found 288.2.

reactant | toluene-4-sulfonic acid trans-4-(tert-butyldimethylsilanyloxy)-cyclohexylmethyl ester | 1.50 mmol, 600 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C20H34O4SSi
reactant | ethanolamine | 2.0 mL, 25 eq | C(O)CN | C2H7NO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-{[trans-4-(tert-butyldimethylsilanyloxy)cyclohexylmethyl]-amino}-ethanol | 0.44 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)CNCCO | C15H33NO2Si
